US08859580B2
(2R,6R,11S)-3-(3H-Benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid
Aqueous 4 M NaOH solution (1 mL) is added to a solution of (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid ethyl ester (0.60 g) in ethanol (3 mL). The resulting solution is stirred at ambient temperature for 3 h. Then, the solution is slightly acidified (pH ca. 5) using 1 M hydrochloric acid and the resulting solution is extracted with ethyl acetate. The combined organic extracts are washed with brine and dried (MgSO4). The solvent is evaporated under reduced pressure to give the product as a white solid.

reactant | NaOH | 4 M, 1 mL | [OH-].[Na+]
reactant | (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid ethyl ester | 0.60 g | C(C)OC(=O)C1=CC2=C(C[C@H]3N(CC[C@@]2([C@@H]3C)C)C(=O)C3=CC2=C(N=CN2)C=C3)C=C1 | C25H27N3O3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (2R,6R,11S)-3-(3H-Benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C=C(C=C3)C(=O)O | C23H23N3O3
